* source PRE-AMP-DISCRET
R_R1         N15026 N14894  68 TC=0,0 
R_R2         N15026 N14890  68 TC=0,0 
R_R3         0 N14843  10k TC=0,0 
C_C1         N14836 N14843  3.3u  TC=0,0 
V_V1         0 N15026 15Vdc
V_V2         N15457 0 15Vdc
R_R4         N14925 N14933  100 TC=0,0 
R_R5         N14921 N14933  100 TC=0,0 
R_R6         N15453 N15457  100 TC=0,0 
R_R7         0 N24191  10k TC=0,0 
V_V3         N14836 0  AC 1V
+SIN 0V 0.5V 10000k 0 0 0
Q_Q7         0 N14882 N15214 BC850C 
Q_Q8         N15258 N15214 N22849 BC850C 
R_R8         N15026 N15214  2.2k TC=0,0 
C_C2         N14882 N15258  270p  TC=0,0 
Q_Q9         N15258 N24264 N15839 BC860C 
Q_Q11         N15026 N15258 N15369 BC860C 
R_R9         N15637 N15626  10k TC=0,0 
C_C3         0 N15637  100u  TC=0,0 
R_R10         N15626 N15369  10k TC=0,0 
R_R11         N15835 N15457  100 TC=0,0 
R_R12         N15839 N15457  39 TC=0,0 
C_C4         N15626 N15369  6.8p  TC=0,0 
R_R13         N15026 N22849  39 TC=0,0 
R_R15         N23087 N15457  68 TC=0,0 
R_R14         N23175 N15457  68 TC=0,0 
R_R16         N23551 N23449  100 TC=0,0 
R_R17         N23551 N23465  100 TC=0,0 
R_R18         N15026 N24034  100 TC=0,0 
R_R19         N24000 0  10k TC=0,0 
Q_Q17         0 N23573 N24264 BC860C 
R_R20         N24264 N15457  2.2k TC=0,0 
C_C5         N23573 N15258  270p  TC=0,0 
R_R21         0 N33113  10k TC=0,0 
R_R22         N15369 N25617  47 TC=0,0 
R_R23         0 N25617  47k TC=0,0 
R_R24         N28352 N15457  1k TC=0,0 
Q_Q18         0 N23301 N28352 BC860C 
R_R25         N23573 N23301  47k TC=0,0 
R_R26         N15026 N28630  1k TC=0,0 
Q_Q19         0 N14886 N28630 BC850C 
R_R27         N14882 N14886  47k TC=0,0 
X_U1         N23449 N14843 N23573 BCM847DS
X_U2         N14921 N15626 N14886 BCM857DS
X_U3         N23465 N15626 N23301 BCM847DS
X_U4         N14925 N14843 N14882 BCM857DS
X_U5         N23087 N28352 N23301 BCM857DS
X_U6         N23175 N28352 N23573 BCM857DS
X_U7         N15453 N24191 N14933 BCM857DS
X_U8         N15457 N15453 N24191 BCM857DS
X_U9         N15457 N15835 N33113 BCM857DS
X_U10         N15835 N33113 N15369 BCM857DS
X_U11         N24034 N24000 N23551 BCM847DS
X_U12         N15026 N24034 N24000 BCM847DS
X_U13         N14890 N28630 N14886 BCM847DS
X_U14         N14894 N28630 N14882 BCM847DS
